US07220856B2
7-Chloro-4-hydroxy-2-quinolinecarboxylic acid methyl ester (76 g) was added to POCl3 (100 mL) at rt, and heated at 140 degrees C. for 1 h, then cooled to rt. After the removal of excess POCl3 in vacuo, cold 1 N NaOH solution was added to pH 8, and precipitated solid was triturated, washed with water and dried under vacuum to afford 78 g (95.2%) of 4,7-dichloro-2-quinolinecarboxylic acid methyl ester as an off-white powder. LC-MS, 255 (M++1). 1H NMR (DMSO-d6): δ 3.95 (s, 3H), 7.91 (d, 1H), 8.22 (s, 1H), 8.26 (d, 1H), 8.33 (s, 1H).

reactant | 7-Chloro-4-hydroxy-2-quinolinecarboxylic acid methyl ester | 76 g | COC(=O)C1=NC2=CC(=CC=C2C(=C1)O)Cl | C11H8ClNO3
reactant | POCl3 | 100 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4,7-dichloro-2-quinolinecarboxylic acid methyl ester | 78 g, 95.2% | COC(=O)C1=NC2=CC(=CC=C2C(=C1)Cl)Cl | C11H7Cl2NO2
